US08633312B2
Trifluoromethanesulfonic acid 8-chloro-5-oxo-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-1-yl ester
For the preparation of the title compound, 0.517 g (0.0020 mol) of 8-chloro-1-hydroxy-10,11-dihydrodibenzo[a,d]cyclohepten-5-one and 0.846 g (0.0030 mol) of Tf2O in 5 ml of pyridine are reacted by method R. C16H10ClF3O4S (Mr=390.77); GC 11.9 min

reactant | 8-chloro-1-hydroxy-10,11-dihydrodibenzo[a,d]cyclohepten-5-one | 0.0020 mol, 0.517 g | ClC=1C=CC2=C(CCC3=C(C2=O)C=CC=C3O)C1 | C15H11ClO2
reactant | Tf2O | 0.0030 mol, 0.846 g | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | Trifluoromethanesulfonic acid 8-chloro-5-oxo-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-1-yl ester | ClC=1C=CC2=C(CCC3=C(C2=O)C=CC=C3OS(=O)(=O)C(F)(F)F)C1 | C16H10ClF3O4S
